US08604034B2
A solution of 1-{4-bromo-1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrol-2-yl}-2,2,2-trichloroethanone (157 mg, 0.37 mmol) in methanol (7 mL) was treated with sodium hydroxide (15 mg, 0.37 mmol) in water (0.4 mL) at 0° C. and the mixture stirred at room temperature. After one hour the reaction was complete (monitored by LCMS). The mixture was acidified with a aqueous solution of HCl (1 M) and then extracted with CH2Cl2 (3 times). The organic were then dried (Na2SO4), filtrated and concentrated in vacuo to give methyl 4-bromo-1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrole-2-carboxylate (140 mg). The crude was used in the next step without purification. 1H-NMR (400 MHz, CDCl3): δ 2.69 (s, 3H), 3.71 (s, 3H), 5.86 (s, 2H), 6.83 (d, 1H, 1.9 Hz), 7.01 (d, 1H, J 1.9 Hz), 8.53 (s, 1H), 9.13 (s, 1H).

reactant | 1-{4-bromo-1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrol-2-yl}-2,2,2-trichloroethanone | 0.37 mmol, 157 mg | BrC=1C=C(N(C1)CC(=O)C1=NC=C(N=C1)C)C(C(Cl)(Cl)Cl)=O | C13H9BrCl3N3O2
reactant | sodium hydroxide | 0.37 mmol, 15 mg | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
reactant | methanol | 7 mL | CO | CH4O
solvent | water | 0.4 mL | O | H2O
product | methyl 4-bromo-1-[2-(5-methylpyrazin-2-yl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 140 mg | BrC=1C=C(N(C1)CC(=O)C1=NC=C(N=C1)C)C(=O)OC | C13H12BrN3O3
